US07855290B2
1-(2-Fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamoylcyclopropanecarboxylic acid
To a solution of 1-(benzyloxycarbonyl)-N-(2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)cyclopropanecarboxamide (510 mg) in tetrahydrofuran (20 ml)-methanol (20 ml) was added 20% palladium hydroxide on carbon (377 mg), followed by stirring under a hydrogen atmosphere at room temperature for 24 hr. The catalyst was removed by filtration, and washed with tetrahydrofuran-methanol(1:1). The filtrate was concentrated under reduced pressure, and the residue was dried under reduced pressure to provide the titled compound as white crystals (358.7 mg, 83%).

reactant | 1-(benzyloxycarbonyl)-N-(2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)cyclopropanecarboxamide | 510 mg | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)F | C31H34FN5O5
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 377 mg | [OH-].[OH-].[Pd+2]
product | 1-(2-Fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamoylcyclopropanecarboxylic acid | 358.7 mg, 83% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(=O)C1(CC1)C(=O)O | C24H28FN5O5
